US06982348B2
To a suspension (200 ml) of magnesium (7.14 g, 294 mmol) in ether in a three necked flask was added dropwise a solution of p-bromotoluene (34 ml, 276 mmol) in ether (100 ml), and the mixture was heated under reflux for 1.5 hrs. Thereafter, to the mixture was added a solution of trimethylacetonitrile (25 ml, 226 mmol) in ether (100 ml), and the mixture was stirred for 2 hrs. The mixture was then ice-cooled. To the mixture was added dropwise 6N hydrochloric acid, and the mixture was stirred at room temperature for 30 min. The mixture was diluted with ether, and washed with water and saturated brine. The mixture was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:0, 10:1) to give 2,2-dimethyl-1-(4-methylphenyl)-1-propanone (10.94 g, 27%) as a colorless transparent oil.

reactant | magnesium | 294 mmol, 200 ml, 7.14 g | [Mg] | Mg
reactant | p-bromotoluene | 276 mmol, 34 ml | BrC1=CC=C(C=C1)C | C7H7Br
reactant | trimethylacetonitrile | 226 mmol, 25 ml | CC(C#N)(C)C | C5H9N
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ether | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
product | 2,2-dimethyl-1-(4-methylphenyl)-1-propanone | 10.94 g, 27% | CC(C(=O)C1=CC=C(C=C1)C)(C)C | C12H16O
